US07977371B2
2-Aminocarbonylamino-5-(3-chlorophenyl)-4-(methylaminomethyl)pyrrole-3-carboxamide (Compound No. 19-1)
40% Methylamine in methanol (1 mL, 9.8 mmol) was added to a suspension of 2-aminocarbonylamino-5-(3-chlorophenyl)-4-formylpyrrole-3-carboxamide (Compound No. 17-1, 45 mg, 0.15 mmol) in tetrahydrofuran (1 mL), and the mixture was sealed and stirred at 40° C. for 3 hours. Moreover, sodium borohydride (25 mg, 0.66 mmol) was added thereto and the whole was stirred at room temperature for 3 hours. Acetone (5 mL) was added to the reaction solution and concentrated in vacuo. Water (10 mL) was added to the obtained residue, and the precipitated solid was filtered off. The solid was washed with water (10 mL) and the mixed solvent (5.5 mL), which consists of chloroform and ethanol (10:1), dried under reduced pressure to give the target compound (17 mg) as an orange solid (Yield 36%).

reactant | Methylamine | CN | CH5N
reactant | methanol | 9.8 mmol, 1 mL | CO | CH4O
reactant | 2-aminocarbonylamino-5-(3-chlorophenyl)-4-formylpyrrole-3-carboxamide | NC(=O)NC=1NC(=C(C1C(=O)N)C=O)C1=CC(=CC=C1)Cl | C13H11ClN4O3
reactant | sodium borohydride | 0.66 mmol, 25 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | Acetone | 5 mL | CC(=O)C | C3H6O
product | 2-Aminocarbonylamino-5-(3-chlorophenyl)-4-(methylaminomethyl)pyrrole-3-carboxamide | 17 mg, Yield 36% | NC(=O)NC=1NC(=C(C1C(=O)N)CNC)C1=CC(=CC=C1)Cl | C14H16ClN5O2
